US06762196B2
A mixture of 1.2 g of N-[1-(tert-butyl-dimethyl-silanyloxymethyl)-2-(3-methoxy-pyridin-4-yl)ethyl]-acetamide in 60 mL of aqueous solution of 6N hydrochloric acid is heated at a temperature of about 100° C. for 30 minutes. After cooling at a temperature of about 20° C., an adequate volume of an aqueous 30% sodium hydroxide solution is added dropwise to obtain a pH of about 10. The mixture is extracted with 3 times 100 mL of ethyl acetate and the organic extracts are combined, dried over magnesium sulfate then concentrated under reduced pressure (2 kPa) at a temperature of about 40° C. About 0.3 g of 2-amino-3-(3-methoxy-pyridin-4-yl)-1-propanol is obtained in the form of an yellow-colored oil. [Infrared spectrum CH2Cl2: 3628; 3335; 2948; 1614; 1561; 1400; 1319; 1162; 1044 et 815 cm−1].

reactant | N-[1-(tert-butyl-dimethyl-silanyloxymethyl)-2-(3-methoxy-pyridin-4-yl)ethyl]-acetamide | 1.2 g | C(C)(C)(C)[SiH2]OC(C(CC1=C(C=NC=C1)OC)NC(C)=O)(C)C | C17H30N2O3Si
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-amino-3-(3-methoxy-pyridin-4-yl)-1-propanol | 0.3 g | NC(CO)CC1=C(C=NC=C1)OC | C9H14N2O2
